US04590201
A stirred solution of sodium (104 mg, 4.50 mmol) in absolute ethanol at 60° C. was treated with 2-cyanoacetamide (378 mg, 4.50 mmol), kept 5 min, and treated with a solution of 942 mg of a 4:1 mixture of 4-benzoyl-3-methyl-benzyl azide and 2-benzoyl-5-methylbenzyl azide in absolute ethanol (6 ml). The mixture was refluxed 1 hour, cooled to 0° , and filtered. The solid was washed twice with water, acidified with acetic acid, and dried. The ethanol filtrate was acidified with acetic acid and evaporated to dryness at 40° C. under vacuum. The residue from the filtrate was combined with the above solid and chromatographed on a column of silica gel (125 g) eluted in 17 ml fractions with 19:1 (v/v) dichloromethane-methanol. Fractions 19-25 were combined and evaporated to dryness, and the residue was triturated with diethyl ether (3×10 ml). The remaining solid was dried 18 hours at ambient temperature under vacuum to provide 330 mg (31%) 5-amino-1-(4-benzoyl-3-methylbenzyl)-1,2,3-triazole4-carboxamide, m.p. 181°-182° C.

reactant | sodium | 4.50 mmol, 104 mg | [Na] | Na
reactant | 2-cyanoacetamide | 4.50 mmol, 378 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 4-benzoyl-3-methyl-benzyl azide | C(C1=CC=CC=C1)(=O)C1=C(C=C(CN=[N+]=[N-])C=C1)C | C15H13N3O
reactant | 2-benzoyl-5-methylbenzyl azide | C(C1=CC=CC=C1)(=O)C1=C(CN=[N+]=[N-])C=C(C=C1)C | C15H13N3O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5-amino-1-(4-benzoyl-3-methylbenzyl)-1,2,3-triazole4-carboxamide | 330 mg, 31% | NC1=C(N=NN1CC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)C)C(=O)N | C18H17N5O2
